US06576656B1
(3) [2-Nitro-4-iodo-6-(trifluoromethyl)phenyl]acetic Acid
To crude methyl 3-[2-nitro-4-iodo-6-(trifluoromethyl)phenyl]-2-oxo-propanoate prepared above (40.98 g) in AcOH (750 mL) was added aqueous 30% H2O2 solution (266 mL) followed by 70% HClO4 (41 mL). The resulting mixture was stirred at 50° C. (bath temperature) for 4.5 hours. The solution was cooled and solid Na2SO3 (100 g) was added. The solvent was then removed in vacuo. The resulting orange solid was suspended in EtOAc (500 mL) and washed with H2O (300 mL). The organic phase was then extracted with aqueous saturated NaHCO3:aqueous 2N NaOH (6:1, 600 mL) followed by aqueous saturated NaHCO3 (200 mL). The aqueous extracts were combined and cooled in an ice-water bath. The solution was then acidified with aqueous 35% HCl. The resulting solid was isolated by filtration and dried to give the title compound as a yellow solid (7.086 g). The organic phase was then re-extracted with aqueous saturated NaHCO3 (6×50 mL). The extracts were combined and cooled in an ice-water bath, and then acidified with aqueous 35% HCl. The resulting solid was isolated by filtration and dried to give the title compound as a yellow solid (6.896 g).

reactant | methyl 3-[2-nitro-4-iodo-6-(trifluoromethyl)phenyl]-2-oxo-propanoate | [N+](=O)([O-])C1=C(C(=CC(=C1)I)C(F)(F)F)CC(C(=O)OC)=O | C11H7F3INO5
reactant | H2O2 | 266 mL | OO | H2O2
reactant | Na2SO3 | 100 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | AcOH | 750 mL | CC(=O)O | C2H4O2
product | [2-Nitro-4-iodo-6-(trifluoromethyl)phenyl]acetic Acid | 7.086 g | [N+](=O)([O-])C1=C(C(=CC(=C1)I)C(F)(F)F)CC(=O)O | C9H5F3INO4
